US05925152
N-furfuryl-2-furamide was prepared by adding dropwise to a mixture of furfurylamine (7.44 g; 7 mmol; ex Aldrich) and triethylamine (35.6 g; 352 mmol) in dichloromethane 2-furoyl chloride (23 g; 176 mmol) at a temperature of 0 to 5° C. The product obtained was washed with water, dried with magnesium sulphate and evaporated. Subsequently, the product so obtained was purified by flash chromatography (silica, hexane/ethyl acetate as eluant) and 14 g (97% yield) of the product was recovered.

reactant | furfurylamine | 7 mmol, 7.44 g | C(C1=CC=CO1)N | C5H7NO
reactant | triethylamine | 352 mmol, 35.6 g | C(C)N(CC)CC | C6H15N
reactant | dichloromethane 2-furoyl chloride | 176 mmol, 23 g | O1C(=CC=C1)C(=O)Cl.ClCCl
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | N-furfuryl-2-furamide | C(C1=CC=CO1)NC(=O)C=1OC=CC1 | C10H9NO3
